US06075043
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-dimethylpyrazole
Pentan-2,4-dione (0.100 g) was added to a stirred solution of 2,6-dichloro-4-trifluoromethylphenylhydrazine (0.245 g) in ethanol (4.5 ml), followed by glacial acetic acid (0.5 ml), at room temperature. The reaction mixture was heated under reflux for 1 hour, then evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, using dichloromethane as eluant, to provide a colourless oil initially which crystallised, after removal of extraneous solvent in vacuo, to furnish the title compound (0.265 g), m.p. 87-89° C. δ(CDCl3): 2.10 (s,3H), 2.32 (s,3H), 6.07 (s,1H), 7.72 (s,2H). MS (thermospray): M/Z [M] 309.0; C12H9Cl2F3N2 requires 309.12.

reactant | Pentan-2,4-dione | 0.100 g | CC(CC(C)=O)=O | C5H8O2
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 0.245 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 4.5 ml | C(C)O | C2H6O
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-dimethylpyrazole | 0.265 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1C)C | C12H9Cl2F3N2
